US05149838
Step C: Preparation of 4-(2-ethylpropionyloxy)-3,3-diethylazetidin-2-one
The vinyl ester is charged into a 22 L vessel equipped with an overhead stirrer and an N2 inlet. To the vinyl ester at +5° C. is added chlorosulfonyl isocyanate (2.1 L) over 1 hour. The mixture is stirred at +8° C. under nitrogen. After 45 hours the reaction is cooled to 0° C., and then diluted with toluene (5 L). The mixture is pumped into an open 250 L vessel containing D.I. water (60 L), ice (20 L), solid NaHCO3 (13 kg) and solid Na2SO3 (7.5 kg). The mixture is stirred at 20° C. for 4 h. The batch is filtered through celite (1.8 kg) and the celite is rinsed with EtOAc (7 L). The filtrates are combined and the organic layer removed. The aqueous layer is extracted with EtOAc (12 L). The combined organics are washed with brine (8 L) and concentrated in vacuo. Toluene (2 L) is added and the solution concentrated in vacuo to afford 4.57 kg of a light yellow oil (assay yield is 3.153 kg; 78%).

reactant | chlorosulfonyl isocyanate | 2.1 L | ClS(=O)(=O)N=C=O | CClNO3S
reactant | water | 60 L | O | H2O
reactant | NaHCO3 | 13 kg | C(=O)(O)[O-].[Na+]
reactant | Na2SO3 | 7.5 kg | [O-]S(=O)[O-].[Na+].[Na+]
reactant | toluene | 5 L | C1(=CC=CC=C1)C | C7H8
product | 4-(2-ethylpropionyloxy)-3,3-diethylazetidin-2-one | 4.57 kg, 78% | C(C)C(C(=O)OC1C(C(N1)=O)(CC)CC)C | C12H21NO3
